US05391723
To a solution of 0.786 g (5.37 mmole) of methyl-6-hydroxyhexanoate and 0.48 g (2.8 mmole) of diisopropylammonium tetrazolide in 25 ml of dichloromethane were added dropwise 1.62 g (5.37 mmole) of bis(diisopropyl amino)-2-cyanoethyoxyphosphine (Aldrich). The resulting solution was stirred at 25° C. for 2 hours and extracted with phosphate buffer at pH 7. Drying over magnesium sulfate and fast chromatography on silica gel (40% ethylacetate-hexanes, trace triethylamine) yielded the diisopropylamino-5-(carbomethoxy)pentyloxy-2-cyanoethoxy phosphine linking group as a colorless oil (1.30 g: 70%).

reactant | methyl-6-hydroxyhexanoate | 5.37 mmole, 0.786 g | COC(CCCCCO)=O | C7H14O3
reactant | diisopropylammonium tetrazolide | 2.8 mmole, 0.48 g | N1N=NN=[C-]1.C(C)(C)[NH2+]C(C)C
reactant | bis(diisopropyl amino)-2-cyanoethyoxyphosphine | 5.37 mmole, 1.62 g | C(C)(C)N(C(C)C)P(OCCC#N)N(C(C)C)C(C)C | C15H32N3OP
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | diisopropylamino-5-(carbomethoxy)pentyloxy-2-cyanoethoxy phosphine | C(C)(C)N(C(C)C)P(OCCC#N)OCCCCCC(=O)OC | C16H31N2O4P
